US06384233B1
U.S. Pat. No. 5,117,054 describes a process wherein p-chloroacetophenone is reacted with succinic anhydride to form 4-chloro-γ,ε-dioxo-benzenehexanoic acid which is reacted with acetic anhydride or acetyl chloride to yield 5-[2-(4-chlorophenyl)-2-oxoethylidene]dihydro-2(3H)-furanone. This compound is then added to a mixture of N-methylhydroxylamine hydrochloride and an amine base such as triethylamine, Hunig's base, pyridine or lutidine and a solvent such as methylene chloride or chloroform to form 4-chloro-N-hydroxy-N-methyl-γ,ε-dioxo-benzenehexanamide which is combined with 4-methoxyphenyl hydrazine hydrochloride, an amine base as described above in an alcoholic solvent such as methanol, ethanol or propanol.

reactant | p-chloroacetophenone | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | 4-chloro-γ,ε-dioxo-benzenehexanoic acid | ClC1=CC=C(C=C1)C(CC(CCC(=O)O)=O)=O | C12H11ClO4
